US09062015B2
FS1014 ((3aR,4S,7aS)-2,2-Dimethylhexahydrobenzo-1,3-dioxol-4-yl)-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl]amine
The preparation is carried out analogously to FS1008 in THF starting from 62 mg (0.360 mmol) of (3aR,4S,7aS)-2,2-dimethylhexahydrobenzo-1,3-dioxol-4-ylamine and 145 mg (0.360 mmol) of 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3,5,6-tetrahydro-1,2′-bipyridinyl-4-one. The purification is carried out by means of flash chromatography on silica gel.

reactant | (3aR,4S,7aS)-2,2-dimethylhexahydrobenzo-1,3-dioxol-4-ylamine | 0.360 mmol, 62 mg | CC1(O[C@H]2[C@@H](O1)CCC[C@@H]2N)C | C9H17NO2
reactant | 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3,5,6-tetrahydro-1,2′-bipyridinyl-4-one | 0.360 mmol, 145 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CC1)=O)C | C24H30N2O
solvent | THF | C1CCOC1 | C4H8O
product | ((3aR,4S,7aS)-2,2-Dimethylhexahydrobenzo-1,3-dioxol-4-yl)-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl]amine | CC1(O[C@H]2[C@@H](O1)CCC[C@@H]2NC2CCN(CC2)C2=NC(=CC=C2)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C)C | C33H47N3O2
